US05294612
To a suspension of 97% NaH (0.64 g, 0.026 mol) in DMF (75 ml) was added 3-cyano-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-amine (4.7 g, 0.02 mol). The reaction mixture was stirred at room temperature for 30 minutes then cyclopentyl bromide (3.1 g, 0.021 mol) in DMF (25 ml) was added dropwise. The reaction mixture was heated on a steam bath for 3 hours, cooled to room temperature and stirred for 24 hours. Inorganic salts were removed by filtration and the filtrate was concentrated in vacuo. The residue was purified by column chromatography on silica eluting with ethyl acetate (100%) followed by preparative thin layer chromatography on silica eluting with ethyl acetate/hexanes (75/25) to afford 0.45 g (7%) of 1-cyclopentyl-3-cyano-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-amine, m.p. 219°-221° C. when recrystallized from ether and dried for 16 hours at 90° C. in high vacuum.

reactant | NaH | 0.026 mol, 0.64 g | [H-].[Na+]
reactant | 3-cyano-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-amine | 0.02 mol, 4.7 g | C(#N)C1=NNC2=NC(=NC(=C21)N)C2=CC=NC=C2 | C11H7N7
reactant | cyclopentyl bromide | 0.021 mol, 3.1 g | C1(CCCC1)Br | C5H9Br
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 1-cyclopentyl-3-cyano-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-amine | 0.45 g, 7% | C1(CCCC1)N1N=C(C=2C1=NC(=NC2N)C2=CC=NC=C2)C#N | C16H15N7
